US07781586B2
4-Chloro-8-vinyl-quinoline
A suspension of 975 mg (4.02 mmol) 8-bromo-4-chloroquinoline (commercially available from Ubichem Research Ltd, Budapest, Hungary), 166 mg (0.20 mmol) PdCl2dppfCH2Cl2, 833 mg (6.00 mmol) potassium vinyl tetrafluoroborate and 0.57 ml (4.10 mmol) triethylamine in 20 ml ethanol was heated at reflux for 3 h. The resulting yellow suspension was filtered and the filtrate evaporated to dryness. The residue was suspended in ethyl acetate, filtered and the filtrate extracted with water. The organic layer was evaporated to dryness and the isolated crude product purified by silica gel chromatography (hexane/ethyl acetate 9:1) to yield 207 mg (27%) of the title compound as white crystals. MS: 189.1 (M+). 1H-NMR (300 MHz, CDCl3): 5.53 (d, J=11.1 Hz, 1H); 5.95 (d, J=17.7 Hz, 1H); 7.51 (d, J=4.6 Hz. 1H); 7.63 (t, J=7.9 Hz, 1H); 7.96 (dd, J=17.7, 11.1 Hz, 1H); 7.97 (d, J=7.1 Hz, 1H); 8.19 (d, J=8.5 Hz, 1H); 8.80 (d, J=4.6 Hz, 1H).

reactant | 8-bromo-4-chloroquinoline | 4.02 mmol, 975 mg | BrC=1C=CC=C2C(=CC=NC12)Cl | C9H5BrClN
reactant | triethylamine | 4.10 mmol, 0.57 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-Chloro-8-vinyl-quinoline | 207 mg, 27% | ClC1=CC=NC2=C(C=CC=C12)C=C | C11H8ClN
